US08193246B2
Synthesis of Hexadecanoic acid 1-{[(5-carboxy-pentyl)-dimethyl-ammonium]methyl-2-hexadecanoyloxy-ethyl ester (w6-DPTAP)
8.31 g (2,3-Bis-hexadecanoyloxy-propyl)-(6-hydroxyhexyl)-dimethyl-ammonium bromide were suspended in 40 ml dichloromethane and under stirring 0.035 g TEMPO in 20 ml dichloromethane were added. 0.268 g KBr were dissolved in 3 ml H2O and added to the reaction. After the addition of 0.22 g Aliquat 336™ the mixture was cooled with an ice bath and 1 g NaHCO3 dissolved in 67 ml sodium hypochlorite solution was added dropwise. The mixture was allowed to stir for 5 hours at room temperature before 200 ml CHCl3 was added. The phases were separated and the organic phase was dried over Na2SO4. The solvent was removed and the crude product was purified by column chromatography on silica gel (eluent: chloroform/methanol 4:1). The product was characterized by 1H-NMR and LC-MS.

reactant | (2,3-Bis-hexadecanoyloxy-propyl)-(6-hydroxyhexyl)-dimethyl-ammonium bromide | 8.31 g | [Br-].C(CCCCCCCCCCCCCCC)(=O)OC(C[N+](C)(C)CCCCCCO)COC(CCCCCCCCCCCCCCC)=O
reactant | TEMPO | 0.035 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | KBr | 0.268 g | [K+].[Br-]
reactant | NaHCO3 | 1 g | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | H2O | 3 ml | O | H2O
catalyst | Aliquat 336 | 0.22 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | sodium hypochlorite | 67 ml | Cl[O-].[Na+]
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | Hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
